US07629346B2
5-Bromo-6-(4-fluoro-phenyl)-pyrazine-2-carboxylic acid (2-cyclopropyl-2-hydroxy-propyl)-amide
To a solution of 0.78 g of 5-bromo-6-(4-fluoro-phenyl)-pyrazine-2-carboxylic acid in 15.0 ml dichloromethane was added at room temperature 0.39 g (1-chloro-2-methyl-propenyl)-dimethyl-amine and the mixture was stirred for 0.5 hours at room temperature. To the resulting white suspension was added 0.333 g 4-amino-2-cyclopropyl-butan-2-ol and 0.45 ml N-ethyldiisopropylamine and the mixture was stirred for 2 hours at room temperature. The resulting mixture was partitioned between 10% aqueous citric acid and dichloromethane. The phases were separated and the organic layer was dried over magnesium sulfate and evaporated. The residue was purified by chromatography on silica gel using a gradient of heptane to 25% ethyl acetate in heptane to yield 0.70 g of the title compound as white crystals. MS (ISP) (M+H+)=394.1 and 396.0.

reactant | 5-bromo-6-(4-fluoro-phenyl)-pyrazine-2-carboxylic acid | 0.78 g | BrC=1N=CC(=NC1C1=CC=C(C=C1)F)C(=O)O | C11H6BrFN2O2
reactant | (1-chloro-2-methyl-propenyl)-dimethyl-amine | 0.39 g | ClC(=C(C)C)N(C)C | C6H12ClN
reactant | 4-amino-2-cyclopropyl-butan-2-ol | 0.333 g | NCCC(C)(O)C1CC1 | C7H15NO
reactant | N-ethyldiisopropylamine | 0.45 ml | C(C)N(C(C)C)C(C)C | C8H19N
solvent | dichloromethane | 15.0 ml | ClCCl | CH2Cl2
product | 5-Bromo-6-(4-fluoro-phenyl)-pyrazine-2-carboxylic acid (2-cyclopropyl-2-hydroxy-propyl)-amide | 0.70 g | C1(CC1)C(CNC(=O)C1=NC(=C(N=C1)Br)C1=CC=C(C=C1)F)(C)O | C17H17BrFN3O2
